US09428444B2
Preparation of 3,5-Diiodo L-Tyrosine Copper Complex
RBF was charged with 1200 ml of water and 15.01 gms of sodium hydroxide at 20-25° C. and stirred to get a clear solution. 100 gms of 3,5-Diiodotyrosine dihydrate was added and to the above mixture and stirred for an hour to get a clear solution. Copper sulphate solution (35.94 gms dissolved in 225 ml of water at 40° C.) was then added into the reaction mixture over a period of 1 hr and maintained at 20-25° C. for 1 hr. The resultant reaction mixture is filtered and washed with 1500 ml of DM water and dried under vacuum at 55-60° C. to get 95 gms of 3,5-Diiodo L-Tyrosine copper complex. The purity of obtained complex is NLT 97% with yield of 93-98%.

reactant | sodium hydroxide | 15.01 gms | [OH-].[Na+]
reactant | 3,5-Diiodotyrosine dihydrate | 100 gms | O.O.IC=1C=C(C[C@H](N)C(=O)O)C=C(C1O)I
reactant | Copper sulphate | 225 ml, 35.94 gms | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 1200 ml | O | H2O
product | 3,5-Diiodo L-Tyrosine Copper | yield of 93-98% | [Cu].IC=1C=C(C[C@H](N)C(=O)O)C=C(C1O)I | InChI=1S/C9H9I2NO3.Cu/c10-5-1-4(2-6(11)8(5)13)3-7(12)9(14)15;/h1-2,7,13H,3,12H2,(H,14,15);/t7-;/m0./s1
